US07915428B2
Preparation of methyl 6-((4(4-cyano-5-(dicyanomethylene)-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)phenyl)(2-ethylhexyl)amino)hexanoate (10)
In a three-neck flask 6-((2-ethylhexyl)(phenyl)amino)hexyl acetate (7.0 g, 0.020 mol) was added to dimethylformamide (100 ml), stirred, and then added with acetic anhydride (2.9 g, 0.028 mol) and 4-cyano-5-dicyanomethylene-3-hydroxy-2-oxo-3-pyrroline disodium salt (5.6 g, 0.024 mol). The temperature was decreased to 0° C., POCl3 was slowly added thereto for 30 min, and then the mixture was allowed to react at room temperature for 6 hours with stirring. A solid product was precipitated with water, filtered, and then dried, thus obtaining 4.0 g of a dark blue solid.

reactant | 6-((2-ethylhexyl)(phenyl)amino)hexyl acetate | 0.020 mol, 7.0 g | C(C)(=O)OCCCCCCN(C1=CC=CC=C1)CC(CCCC)CC | C22H37NO2
reactant | acetic anhydride | 0.028 mol, 2.9 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-cyano-5-dicyanomethylene-3-hydroxy-2-oxo-3-pyrroline disodium salt | 0.024 mol, 5.6 g | [Na].[Na].C(#N)C1=C(C(NC1=C(C#N)C#N)=O)O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 6-((4(4-cyano-5-(dicyanomethylene)-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)phenyl)(2-ethylhexyl)amino)hexanoate | 4.0 g | C(#N)C1=C(C(NC1=C(C#N)C#N)=O)C1=CC=C(C=C1)N(CCCCCC(=O)OC)CC(CCCC)CC | C29H35N5O3
